US07700786B2
Potassium carbonate (0.19 g, 1.5 mmol) and ethyl isocyanate (0.09 g, 1.3 mmol) were added to a solution of 5-methyl-3-(4-nitrophenyloxy)pyrazole (0.29 g, 1.3 mmol) in ethyl acetate (15 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with diethyl ether (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/20), to give a white solid of N-ethyl-5-methyl-3-(4-nitrophenyloxy)pyrazole-1-carboxamide (0.38 g, yield: 99.2%). mp: 105-107° C., 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (t, J=7.3 Hz, 3H), 2.64 (d, J=0.7 Hz, 3H), 3.40 (dq, J=5.9 and 7.2 Hz, 2H), 5.83 (q, J=0.7 Hz, 1H), 6.75 (m, 1H), 7.20-7.30 (m, 2H), 8.26 (dd, J=2.2 and 7.0 Hz, 2H).

reactant | Potassium carbonate | 1.5 mmol, 0.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl isocyanate | 1.3 mmol, 0.09 g | C(C)N=C=O | C3H5NO
reactant | 5-methyl-3-(4-nitrophenyloxy)pyrazole | 1.3 mmol, 0.29 g | CC1=CC(=NN1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-5-methyl-3-(4-nitrophenyloxy)pyrazole-1-carboxamide | 0.38 g, yield: 99.2% | C(C)NC(=O)N1N=C(C=C1C)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H14N4O4
